US07625931B2
Ethanol (20 mL) is added to 4-[1-(3-Nitro-benzyl)-1H-imidazol-2-yl]-pyridine (730 mg, 2.6 mmol) and 10% palladium on charcoal (100 mg) under an atmosphere of argon. The atmosphere is purged 3 times with H2 on a Parr shaker type hydrogenation apparatus, and the mixture is shaken for 4 h at 50 psi H2. The mixture is filtered through celite, and the filter pad is washed with DCM and MeOH (1:1). The solution was concentrated under reduced pressure to afford 3-(2-Pyridin-4-yl-imidazol-1-ylmethyl)-phenylamine as an off-white solid.

reactant | 4-[1-(3-Nitro-benzyl)-1H-imidazol-2-yl]-pyridine | 2.6 mmol, 730 mg | [N+](=O)([O-])C=1C=C(CN2C(=NC=C2)C2=CC=NC=C2)C=CC1 | C15H12N4O2
catalyst | palladium on charcoal | 100 mg | [Pd] | Pd
solvent | Ethanol | 20 mL | C(C)O | C2H6O
product | 3-(2-Pyridin-4-yl-imidazol-1-ylmethyl)-phenylamine | N1=CC=C(C=C1)C=1N(C=CN1)CC=1C=C(C=CC1)N | C15H14N4
